US08859509B2
23-Azido-3,6,9,12,15,18,21-heptaoxatricosan-1-ol (azido-PEG8-ol) (1.1 g, 3.17 mmol, 1.0 equiv.) was dissolved in N,N′-dimethylformamide (6 mL), and sodium hydride (152 mg, 6.34 mmol, 2.0 equiv.) was added, followed by propargyl bromide (80% in PhMe, 683 μL 6.34 mmol, 2.0 equiv.). The reaction ran for 4 h at rt, at which time it was found complete by NMR aliquot. The reaction was taken up in CH2Cl2 (25 mL) and washed with a saturated aqueous ammonium chloride solution (25 mL). The aqueous solution was back-extracted with dichloromethane (2×10 mL), and combined organics were dried over MgSO4 and concentrated to a brown oil. Chromatography (3 cm×20 cm Silica gel, 3% MeOH/CH2Cl2) yielded azido-PEG8-yne (960 mg, 78% yield). IR (thin film/NaCl) 2874 (m), 2110 (m), 1160 (s), 1105 (s) cm−1; 1HNMR (400 MHz, CDCl3) δ 4.20 (d, J=2.4 Hz, 2H), 3.58 (m, 30H), 3.39 (t, J=5.1 Hz, 2H), 2.43 (t, J=2.4 Hz, 1H), 1.82 (s, 1H); 13CNMR (125 MHz, CDCl3) δ 79.82, 74.72, 70.75, 7022, 68.27, 58.62, 50.84; HRMS (ES+) calc'd for C19H35N3O8 (M+Na) m/z 456.231637. Found 456.23182.

reactant | 23-Azido-3,6,9,12,15,18,21-heptaoxatricosan-1-ol | 3.17 mmol, 1.1 g, 1.0 equiv. | N(=[N+]=[N-])CCOCCOCCOCCOCCOCCOCCOCCO | C16H33N3O8
reactant | sodium hydride | 6.34 mmol, 152 mg, 2.0 equiv. | [H-].[Na+]
reactant | propargyl bromide | 6.34 mmol, 683 μL, 2.0 equiv. | C(C#C)Br | C3H3Br
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | N,N′-dimethylformamide | 6 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-azido-3,6,9,12,15,18,21,24-octaoxaheptacos-26-yne | 960 mg, 78% yield | N(=[N+]=[N-])CCOCCOCCOCCOCCOCCOCCOCCOCC#C | C19H35N3O8
